US05064861
STEP A: 3-[(tert-butoxycarbonyl)-amino]-1-propanol
21.8 g of di-tert-butyl-dicarbonate in solution in 50 ml of tetrahydrofuran were added at ambient temperature to a solution of 7.5 g of 3-amino-2-propanol in 75 ml of water and 75 ml of tetrahydrofuran. After 2 hours of stirring at 20° C., then evaporation to dryness under reduced pressure, the oily residue was taken up in 150 ml of ethyl acetate. The solution was washed twice with 30 ml of 0.5M acetic acid, then with water, and evaporated to dryness under vacuum to obtain 15.4 g of the expected product.

reactant | di-tert-butyl-dicarbonate | 21.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-amino-2-propanol | 7.5 g | NCC(C)O | C3H9NO
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | water | 75 ml | O | H2O
product | 3-[(tert-butoxycarbonyl)-amino]-1-propanol | 15.4 g | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
